US03962321
Acetyl formate (39.6 g, 0.45 mole) is added dropwise to a cooled mixture of sodium formate (6.8 g, 0.10 mole) and trans-2-nonen-1-ol (47.3 g, 0.33 mole). When the addition is complete, the reaction mixture temperature is maintained at 60°C for 7 hours. The mixture is cooled and diluted with water. The organic layer is separated and washed with 5% sodium bicarbonate, water and then dried over sodium sulfate. Trans-2-nonenyl formate, 419 g is obtained on distillation, b.p. 60°-5°C/50-55 mm.

reactant | Acetyl formate | 0.45 mole, 39.6 g | C(=O)OC(C)=O | C3H4O3
reactant | sodium formate | 0.10 mole, 6.8 g | C(=O)[O-].[Na+]
reactant | trans-2-nonen-1-ol | 0.33 mole, 47.3 g | C(\C=C\CCCCCC)O | C9H18O
solvent | water | O | H2O
product | Trans-2-nonenyl formate | C(=O)OC\C=C\CCCCCC | C10H18O2
